US08735494B2
About 6.17 g of 5-amino-2-pyridinecarbonitrile, 11.54 g of triethylamine, and 10 ml of toluene were mixed in a round-bottom reaction flask cooled with an ice bath. To this mixture was added, in a dropwise fashion, a solution of 25.34 g of trimethylsilyl trifluoromethanesulfonate in 70 ml of toluene. The resulting mixture was heated to reflux for 2.5 hours and then evaporated under vacuum. The residue was extracted with 100 ml of hexane. The hexane layer was washed twice with saturated aqueous sodium bicarbonate solution (80 ml each time), dried with anhydrous sodium sulfate, and evaporated under vacuum, yielding 5-[bis(trimethylsilyl)amino]-2-pyridinecarbonitrile (BTMSAPyCN) as a green oil (8.67 g, 64% yield). The 1H NMR data (C6D6, 25° C., referenced to tetramethylsilane) of the product are listed as follows: δ 8.07 (doublet of doublets, 1H, aromatic proton), 6.70 (doublet of doublets, 1H, aromatic proton), 6.45 (doublet of doublets, 1H, aromatic proton), −0.16 (singlet, 18H, Si—CH3 protons). From the 1H NMR data, the structure of the product was determined to be as follows:

reactant | 5-amino-2-pyridinecarbonitrile | 6.17 g | NC=1C=CC(=NC1)C#N | C6H5N3
reactant | triethylamine | 11.54 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl trifluoromethanesulfonate | 25.34 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[bis(trimethylsilyl)amino]-2-pyridinecarbonitrile | 8.67 g, 64% yield | C[Si](C)(C)N(C=1C=CC(=NC1)C#N)[Si](C)(C)C | C12H21N3Si2
